US07285563B2
2,4-Difluoro-6-methoxybenzaldehyde
To a solution of 3.5-difluoroanisole (25 g; 175 mmol) in dichloromethane (150 ml) cooled at 0° C. was added titanium tetrachloride (30.7 ml; 280 mmol). To this mixture was added dropwise over 10 minutes dichloromethyl methylether (15.8 ml; 175 mmol), and after complete addition the mixture was stirred at room temperature for 1 hour. The reaction was poured onto ice/water (500 ml) and extracted with DCM (3×300 ml). The combined DCM layers were washed with water (500 ml), saturated NaCl (200 ml), dried over Na2SO4, filtered and evaporated. The residue was purified by column chromatography on silica-eluting with a gradient rising from 15% Et2O in isohexanes rising to 30% Et2O in isohexanes to give the title compound (11.2 g, 37%) as a white solid.

reactant | 3.5-difluoroanisole | 175 mmol, 25 g | FC=1C=C(C=C(C1)F)OC | C7H6F2O
reactant | dichloromethyl methylether | 175 mmol, 15.8 ml | ClC(Cl)OC | C2H4Cl2O
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
catalyst | titanium tetrachloride | 280 mmol, 30.7 ml | [Ti](Cl)(Cl)(Cl)Cl
product | 2,4-Difluoro-6-methoxybenzaldehyde | 11.2 g, 37% | FC1=C(C=O)C(=CC(=C1)F)OC | C8H6F2O2
